US09079866B2
4-{[4′-(5-Aminopyrazin-2-yl)-3′-fluoro-4-(trifluoromethyl)biphenyl-2-yl]oxy}pyrimidin-2-amine
To a 5 mL vial were added a stir bar, 4′-(5-aminopyrazin-2-yl)-3′-fluoro-4-(trifluoromethyl)biphenyl-2-ol (40 mg, 0.12 mmol), 4-chloropyrimidin-2-amine (17.8 mg, 0.14 mmol), DMSO (1 mL) and Cs2CO3 (52 mg, 0.16 mmol). The vial was flushed with nitrogen and heated for 15 hours at 120° Celsius. The reaction was diluted with 5 mL of ethyl acetate and 5 mL of brine. The aqueous layer was then extracted with ethyl acetate (3×10 mL), the combined organic extracts dried over Na2SO4, and concentrated to dryness. The crude product was purified by HPLC to give the title compound. MS (ESI): mass calcd. for C21H14F4N6O, 442.12; m/z found, 443.1 [M+H]+. 1H NMR (500 MHz, CD3OD) δ 8.34 (s, 1H), 8.09-8.07 (d, J=1.4, 1H), 8.07-8.05 (d, J=7.0, 1H), 7.96-7.88 (m, 1H), 7.82-7.74 (d, J=1.6, 2H), 7.71 (s, 1H), 7.41-7.37 (dd, J=8.1, 1.7, 1H), 7.37-7.32 (dd, J=12.4, 1.7, 1H), 6.64-6.56 (d, J=7.0, 1H).

reactant | 4′-(5-aminopyrazin-2-yl)-3′-fluoro-4-(trifluoromethyl)biphenyl-2-ol | 0.12 mmol, 40 mg | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C=1C(=CC(=CC1)C(F)(F)F)O)F | C17H11F4N3O
reactant | 4-chloropyrimidin-2-amine | 0.14 mmol, 17.8 mg | ClC1=NC(=NC=C1)N | C4H4ClN3
reactant | Cs2CO3 | 0.16 mmol, 52 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 4-{[4′-(5-Aminopyrazin-2-yl)-3′-fluoro-4-(trifluoromethyl)biphenyl-2-yl]oxy}pyrimidin-2-amine | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=C(C=C1)C(F)(F)F)OC1=NC(=NC=C1)N)F | C21H14F4N6O
